US05610144
The operation is carried out in a fashion similar to that described in Example 39, but starting from 2.5 g of ethyl (2R,4R)-3-{3-{3-[2-(4-tert-butoxycarbonyl-2-phenyl-3-thiazolidinyl)-2-oxoethyl]ureido}phenyl}propionate and 0.2 g of lithium hydroxide. The crude product is purified by chromatography on silica [eluent: ethyl acetate/methanol (90/10 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. 0.25 g of (2R,4R)-3-{3-{3-[2-(4-tert-butoxycarbonyl-2-phenyl-3-thiazolidinyl)-2-oxoethyl]ureido}phenyl}propionic acid is thus obtained in the form of an amorphous beige solid ([α]D20 =+58.4°±1.6° (C=0.61%; CHCl3)) [proton NMR (200 MHz, DMSO D6, δ in ppm), 2 rotamers at room temperature, characteristic chemical shifts at 25° C.: 1.5 (bs, 9H, (CH3)3); 2.5 (bt, 2H, CH2); 2.8 (bt, 2H, CH2); 6.8 (bd, 1H, N--C6H4 --C in position 4); 7.1 to 7.5 (m, 7H, aromatic); 7.7 (bd, 2H, aromatic). Infrared spectrum (KBr), characteristic bands in cm-1 : 3380, 2975, 2930, 2620, 1730, 1645, 1610, 1590, 1555, 1490, 1370, 1235, 1150, 785, 730, 695].

reactant | ethyl (2R,4R)-3-{3-{3-[2-(4-tert-butoxycarbonyl-2-phenyl-3-thiazolidinyl)-2-oxoethyl]ureido}phenyl}propionate | 2.5 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C=CC1)CCC(=O)OCC)=O)=O | C28H35N3O6S
reactant | lithium hydroxide | 0.2 g | [OH-].[Li+]
product | (2R,4R)-3-{3-{3-[2-(4-tert-butoxycarbonyl-2-phenyl-3-thiazolidinyl)-2-oxoethyl]ureido}phenyl}propionic acid | 0.25 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C=CC1)CCC(=O)O)=O)=O | C26H31N3O6S
